US05958942
5-Ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine
To a solution of 25.22 g (0.133 mol) of 5-ethoxycarbonylimidazo[1,2-a]pyridine and 48.60 g (0.398 mol) of 4-dimethylaminopyridine was added dropwise 72.33 g (0.398 mol) of trichloroacetyl chloride. The mixture was heated for 63 hours under reflux. After cooling, the reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/n-hexane=1:1) to give 33.10 g of the desired compound (77.4%, yellow solid).

reactant | 5-ethoxycarbonylimidazo[1,2-a]pyridine | 0.133 mol, 25.22 g | C(C)OC(=O)C1=CC=CC=2N1C=CN2 | C10H10N2O2
reactant | trichloroacetyl chloride | 0.398 mol, 72.33 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
catalyst | 4-dimethylaminopyridine | 0.398 mol, 48.60 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 33.10 g, 77.4% | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
